US07572823B2
1,4-Dibromo-benzene (1.18 g, 5 mmol) was dissolved in THF (15 ml) and cooled to −78° C. Under argon a 1.6 M solution of n-butyl lithium in hexane (3.13 ml, 5 mmol) was added slowly under stirring keeping the temperature below −70° C. After complete addition the reaction was stirred at −78° C. for 30 min and dimethyl-isopropyl-silylchloride (683 mg, 5 mmol) was added carefully keeping the temperature again below −70° C. The reaction was stirred at −78° C. for 30 min and a 1.6 M solution of n-butyl lithium in hexane (3.13 ml, 5 mmol) was added at this temperature keeping the temperature below −70° C. After stirring for 30 min at −78° C. DMF (1.1 g, 15 mmol) was added in one portion and the reaction was allowed to warm to rt. Water was added and the solvent was evaporated. The reaction was extracted twice with diethylether. The combined organic layers were dried over sodium sulfate, filtered and the solvent was evaporated, to yield 4-(isopropyl-dimethyl-silanyl)-benzaldehyde (900 mg, 87%) as a colorless oil. The product was pure enough to be used directly in the next step. MS (ISP): 207.1 (M+H)+. 1HNMR (CDCl3, 300 MHz): δ 10.0 (s, 1H), 7.84 (d, J=8.1 Hz, 2H), 7.67 (d, J=8.1 Hz, 2H), 0.93-0.99 (m, 7H), 0.28 (s, 6H).

reactant | 1,4-Dibromo-benzene | 5 mmol, 1.18 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 5 mmol, 3.13 ml | CCCCCC | C6H14
reactant | dimethyl-isopropyl-silylchloride | 5 mmol, 683 mg | C[Si](C(C)C)(C)Cl | C5H13ClSi
reactant | hexane | 5 mmol, 3.13 ml | CCCCCC | C6H14
reactant | DMF | 15 mmol, 1.1 g | CN(C)C=O | C3H7NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 4-(isopropyl-dimethyl-silanyl)-benzaldehyde | 900 mg, 87% | C(C)(C)[Si](C1=CC=C(C=O)C=C1)(C)C | C12H18OSi
